US06005103
3-[Cyclopentyl(cyclopentylthio)methyl]-4-hydroxy-6-phenyl-2H-pyran-2-one, (±)
The title compound was prepared by Method C using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.00 g, 5.31 mmol), ethanol (10 mL), cyclopentanecarboxaldehyde (0.780 g, 7.96 mmol), cyclopentylthiol(l.43 mL, 13.8 mmol), piperidine (0.5 mL), acetic acid (0.5 mL). m.p.139-142° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.03 (m, 1H), 1.64 (m, 15H), 2.64 (m, 1H), 3.00 (m, 1H), 3.84 (d, 1H), 6.69 (s, 1H), 7.52 (m, 3H), 7.76 (m, 2H), 11.55 (bs, 1H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 5.31 mmol, 1.00 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | cyclopentanecarboxaldehyde | 7.96 mmol, 0.780 g | C1(CCCC1)C=O | C6H10O
reactant | cyclopentylthiol | 13.8 mmol, 43 mL | C1CCC(C1)S | C5H10S
reactant | piperidine | 0.5 mL | N1CCCCC1 | C5H11N
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-[Cyclopentyl(cyclopentylthio)methyl]-4-hydroxy-6-phenyl-2H-pyran-2-one | C1(CCCC1)C(C=1C(OC(=CC1O)C1=CC=CC=C1)=O)SC1CCCC1 | C22H26O3S
